### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/Basic): add theorems for angles subtended by diameters

### PR DESCRIPTION
**Pull request by Scarlett-le**
Add two formulations relating sphere diameters and right angles:

* `angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter`: For a diameter of a sphere, 
  the angle subtended by the diameter at any other point on the sphere is a right 
  angle if and only if the point lies on the sphere.

* `angle_eq_pi_div_two_iff_mem_sphere_ofDiameter`: For three distinct points, 
  the angle at the second point is a right angle if and only if the second point 
  lies on the sphere having the first and third points as diameter endpoints.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Sphere/Basic.lean [hunk 1]
```diff
@@ -7,6 +7,7 @@ import Mathlib.Analysis.Convex.StrictConvexBetween
 import Mathlib.Analysis.InnerProductSpace.Convex
 import Mathlib.Analysis.Normed.Affine.Convex
 import Mathlib.Geometry.Euclidean.Basic
+import Mathlib.Geometry.Euclidean.Angle.Unoriented.Affine
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Sphere/Basic.lean]: Please put lemmas about angles and spheres in `Mathlib.Geometry.Euclidean.Angle.Sphere` rather than increasing imports in this file.

I encourage adding a statement that can be explicitly described as Thales's theorem (and then adding it to the 1000-theorems list, `docs/1000.yaml`, as such).

Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Sphere/Basic.lean]: Thank you for the review! I have a concern about moving to `Mathlib.Geometry.Euclidean.Angle.Sphere`: That file has `[Fact (finrank ℝ V = 2)]` and focuses on oriented angles in 2D, but my Thales' theorem works in arbitrary dimensions using unoriented angles (`∠`). I'm not sure if keeping it in `Sphere.Basic` would be more appropriate given this dimensional mismatch.

For the second suggestion, I completely agree and will add an explicit "Thales's theorem" statement and include it in `docs/1000.yaml` as you suggested.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Basic.lean]: Well, the lemmas should go in a section of `Mathlib.Geometry.Euclidean.Angle.Sphere` that doesn't have `variable`s that assume an orientation or a two-dimensional space (creating a new section there as needed). The only versions that might be appropriate in `Sphere.Basic` are ones expressed purely in terms of inner products and not mentioning angles at all (from which versions with angles could then be deduced in `Angle.Sphere`).

Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Sphere/Basic.lean]: Got it! I'll move the theorems to `Mathlib.Geometry.Euclidean.Angle.Sphere` and create a new section without the 2D/orientation constraints. Thanks for the clarification!

**Comment by Scarlett-le** [comment]
@jsm28  I've addressed your feedback by moving the theorems to `Mathlib.Geometry.Euclidean.Angle.Sphere` and adding the entry to `docs/1000.yaml`. The CI checks are now passing. Please let me know if there are any other changes needed.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 2]
```diff
@@ -66,6 +66,81 @@ end Orientation
...
+open Real InnerProductSpace
+
+/-- For a diameter of a sphere, the angle subtended by the diameter
+at any other point on the sphere is a right angle. -/
+theorem angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter (p₁ p₂ p₃ : P) (s : Sphere P)
+    (hd : s.IsDiameter p₁ p₃) :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ s := by
+  constructor
+  · intro h
+    have h_perp : ⟪p₁ -ᵥ p₂, p₃ -ᵥ p₂⟫_ℝ = 0 :=
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: The `open scoped RealInnerProductSpace` in this file ought to mean that, throughout, the `⟪⟫` notation works for inner products without needing the `_ℝ`.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 3]
```diff
@@ -66,6 +66,81 @@ end Orientation
...
+      ring
+    exact (InnerProductGeometry.inner_eq_zero_iff_angle_eq_pi_div_two
+          (p₁ -ᵥ p₂) (p₃ -ᵥ p₂)).mp h_perp
+
+/-- For three distinct points, the angle at the second point
+is a right angle if and only if the second point lies on the sphere having the first and third
+points as diameter endpoints. -/
+theorem angle_eq_pi_div_two_iff_mem_sphere_ofDiameter (p₁ p₂ p₃ : P) :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ Sphere.ofDiameter p₁ p₃ := by
+  exact angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter p₁ p₂ p₃
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: It's unusual to need `by exact`; normally you should just remove both `by` and `exact` and use the term directly.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 2 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Thanks for catching this! I've updated all the inner product notations throughout the proof. Much cleaner now.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 3 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Fixed, thanks!

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 4]
```diff
@@ -66,6 +66,81 @@ end Orientation
...
+
+namespace Sphere
+
+open Real InnerProductSpace
+
+/-- For a diameter of a sphere, the angle subtended by the diameter
+at any other point on the sphere is a right angle. -/
+theorem angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter (p₁ p₂ p₃ : P) (s : Sphere P)
+    (hd : s.IsDiameter p₁ p₃) :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ s := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: It's usual for `iff` lemmas that hypotheses used on both side of the `iff` (so `p₂` here) are implicit `{}` rather than explicit `()`. It's also usual that if one hypothesis can be deduced from the type of another, it's implicit; that would mean `p₁`, `p₃` and `s` are implicit because they can be deduced from `hd`. (All of this unless there is a concrete reason to think that explicit arguments make the lemma more usable in practice.)

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 5]
```diff
@@ -66,6 +66,81 @@ end Orientation
...
+          dist_comm, h_mem1, h_mem2, real_inner_comm (p₃ -ᵥ o) (o -ᵥ p₂)]
+      ring
+    exact (InnerProductGeometry.inner_eq_zero_iff_angle_eq_pi_div_two
+          (p₁ -ᵥ p₂) (p₃ -ᵥ p₂)).mp h_perp
+
+/-- For three distinct points, the angle at the second point
+is a right angle if and only if the second point lies on the sphere having the first and third
+points as diameter endpoints. -/
+theorem angle_eq_pi_div_two_iff_mem_sphere_ofDiameter (p₁ p₂ p₃ : P) :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ Sphere.ofDiameter p₁ p₃ :=
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Similarly, all the hypotheses would be implicit based on usual conventions for `iff` lemmas.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 6]
```diff
@@ -66,6 +66,81 @@ end Orientation
...
+  angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter p₁ p₂ p₃ (Sphere.ofDiameter p₁ p₃)
+    (Sphere.isDiameter_ofDiameter p₁ p₃)
+
+/-- **Thales' theorem**: The angle inscribed in a semicircle is a right angle. -/
+theorem thales_theorem (p₁ p₂ p₃ : P) (s : Sphere P) (hd : s.IsDiameter p₁ p₃) :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ s :=
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: And everything except `hd` would be implicit here based on the usual conventions.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 4 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Thanks for all the feedback on the implicit/explicit parameter conventions! I'll update the theorems accordingly , making parameters implicit where they follow the usual `iff` lemma conventions. I appreciate the guidance as I'm still learning these mathlib style conventions.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 5 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Thanks.

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 6 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Thanks, too.

**Comment by jsm28** [comment]
maintainer merge

I suspect the main proof can be golfed, but I don't have specific suggestions there, and I'm now happy with the statements.

**Comment by JovanGerb** [comment]
I had a go at golfing the main proof. Here is my shorter proof:

```
theorem angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter {p₁ p₂ p₃ : P} {s : Sphere P}
    (hd : s.IsDiameter p₁ p₃) :
    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ s := by
  rw [mem_sphere', EuclideanGeometry.angle,
    ← InnerProductGeometry.inner_eq_zero_iff_angle_eq_pi_div_two]
  let o := s.center
  have h_center : o = midpoint ℝ p₁ p₃ := hd.midpoint_eq_center.symm
  rw [← vsub_add_vsub_cancel p₁ o p₂, ← vsub_add_vsub_cancel p₃ o p₂,
    inner_add_left, inner_add_right, inner_add_right]
  have h_opp : p₁ -ᵥ o = -(p₃ -ᵥ o) := by
    rw [h_center, left_vsub_midpoint, right_vsub_midpoint, ← smul_neg, neg_vsub_eq_vsub_rev]
  rw [h_opp, inner_neg_left, inner_neg_left, real_inner_comm (p₃ -ᵥ o) (o -ᵥ p₂)]
  ring_nf
  rw [neg_add_eq_zero, real_inner_self_eq_norm_sq, ← dist_eq_norm_vsub,
    real_inner_self_eq_norm_sq, ← dist_eq_norm_vsub, sq_eq_sq₀ dist_nonneg dist_nonneg,
    mem_sphere.mp hd.right_mem]
  exact eq_comm
```

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 7]
```diff
@@ -66,6 +66,80 @@ end Orientation
...
+
+/-- For three distinct points, the angle at the second point
+is a right angle if and only if the second point lies on the sphere having the first and third
+points as diameter endpoints. -/
+theorem angle_eq_pi_div_two_iff_mem_sphere_ofDiameter {p₁ p₂ p₃ : P} :
+    ∠ p₁ p₂ p₃ = π / 2 ↔ p₂ ∈ Sphere.ofDiameter p₁ p₃ :=
+  angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter (Sphere.isDiameter_ofDiameter p₁ p₃)
+
+/-- **Thales' theorem**: The angle inscribed in a semicircle is a right angle. -/
+theorem thales_theorem {p₁ p₂ p₃ : P} {s : Sphere P} (hd : s.IsDiameter p₁ p₃) :
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Is this exactly the same as the above theorem? So can it be defined using `alias`?

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 8]
```diff
@@ -66,6 +66,80 @@ end Orientation
...
 
+variable {V : Type*} {P : Type*} [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P]
+  [NormedAddTorsor V P]
+
+namespace Sphere
+
+open Real InnerProductSpace
+
+/-- For a diameter of a sphere, the angle subtended by the diameter
+at any other point on the sphere is a right angle. -/
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Please mention Thales here.

Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Since I will mention **Thales' theorem** in the main theorem's docstring as you suggested, should the `alias` line have its own docstring, or would it be better to leave it uncommented to avoid duplication?

**Planned approach**:
```lean
/-- **Thales' theorem**: For a diameter of a sphere, the angle subtended by the diameter at any other point on the sphere is a right angle. -/
theorem angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter ...

alias thales_theorem := angle_eq_pi_div_two_iff_mem_sphere_of_isDiameter

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean (hunk 7 above)
Comment (Scarlett-le) [reply Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: Yes, they are exactly the same theorem. I'll change it to use `alias` instead. Thanks for catching that!

File: Mathlib/Geometry/Euclidean/Angle/Sphere.lean [hunk 9]
```diff
@@ -66,6 +66,47 @@ end Orientation
...
+  have h_opp : p₁ -ᵥ o = -(p₃ -ᵥ o) := by
+    rw [h_center, left_vsub_midpoint, right_vsub_midpoint, ← smul_neg, neg_vsub_eq_vsub_rev]
+  rw [h_opp, inner_neg_left, inner_neg_left, real_inner_comm (p₃ -ᵥ o) (o -ᵥ p₂)]
+  ring_nf
+  rw [neg_add_eq_zero, real_inner_self_eq_norm_sq, ← dist_eq_norm_vsub,
+    real_inner_self_eq_norm_sq, ← dist_eq_norm_vsub, sq_eq_sq₀ dist_nonneg dist_nonneg,
+    mem_sphere.mp hd.right_mem]
+  exact eq_comm
+
+/-- For three distinct points, the angle at the second point
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Angle/Sphere.lean]: To me this is also Thales's  theorem. Or maybe "reverse Thales"?. I think it would be good to have "Thales" in the docstring. Just to make it more discoverable.

**Review by jcommelin — COMMENTED** [review]
LGTM. One more comment about a docstring. Otherwise, let's get this merged.

bors d+

**Comment by JovanGerb** [comment]
(Note also my comment above about the redundant closing and opening of the same namespace)
